US04735940
0.96 ml of N,N-dimethylformamide di-t-butyl acetal was added dropwise within 20 minutes to a boiling solution of 0.34 g of 4,5-dihydro-7-oxo-8-(m-fluorophenyl)-7H-thieno[2,3-a]quinolizine-10-carboxylic acid in 5 ml of toluene. The mixture was heated under reflux for an additional 30 minutes, left to stand at room temperature overnight and then washed once with water, twice with saturated aqueous sodium bicarbonate solution and once with saturated aqueous sodium chloride solution. The organic phase was dried over sodium sulfate and evaporated in vacuo. The residue was recrystallized from ethyl acetate and there was obtained tert-butyl 8-(m-fluorophenyl)-4,5-dihydro-7-oxo-7H-thieno[2,3-a]quinolizine-10-carboxylate of m.p. 135°-137°.

reactant | N,N-dimethylformamide di-t-butyl acetal | 0.96 ml | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
reactant | 4,5-dihydro-7-oxo-8-(m-fluorophenyl)-7H-thieno[2,3-a]quinolizine-10-carboxylic acid | 0.34 g | O=C1N2CCC3=C(C2=C(C=C1C1=CC(=CC=C1)F)C(=O)O)SC=C3 | C18H12FNO3S
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 8-(m-fluorophenyl)-4,5-dihydro-7-oxo-7H-thieno[2,3-a]quinolizine-10-carboxylate | FC=1C=C(C=CC1)C=1C(N2CCC3=C(C2=C(C1)C(=O)OC(C)(C)C)SC=C3)=O | C22H20FNO3S
